US04707483
8-Methoxy-1-phenyl-3-trifluoroacetyl-7-trifluoromethylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine (5 g, 0.01 m) dissolved in methanol is treated with 40% aqueous sodium hydroxide and stirred. The mixture is concentrated in vacuo and partitioned between ethyl acetate and water to give 8-methoxy-1-phenyl-7-trifluoromethylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 8-Methoxy-1-phenyl-3-trifluoroacetyl-7-trifluoromethylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 5 g | COC=1C(=CC2=C(C(CN(CC2)C(C(F)(F)F)=O)C2=CC=CC=C2)C1)S(=O)(=O)C(F)(F)F | C20H17F6NO4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-methoxy-1-phenyl-7-trifluoromethylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine | COC=1C(=CC2=C(C(CNCC2)C2=CC=CC=C2)C1)S(=O)(=O)C(F)(F)F | C18H18F3NO3S
